US09029591B2
Dinitroethane (2.4 g, 0.02 mol) and potassium hydroxide (1.2 g, 0.22 mol) were dissolved in 50 mL of water to form a first solution. 50 mL of water was added to the first solution to dissolve a salt remaining in the first solution to form a second solution. Octane-3-yl acrylate (8.3 mL, 0.05 mol) was mixed with 50 mL of methanol, and then the mixture was slowly added to the second solution to form a third solution. The third solution was stirred at room temperature for 5 hours. The reaction product was extracted by diethyl ether, and was then distilled under reduced pressure to obtain yellow liquid octane-3-yl 4,4-dinitropentanoate (4.9 g, yield: 80%).

reactant | Dinitroethane | 0.02 mol, 2.4 g | [N+](=O)([O-])C(C)[N+](=O)[O-] | C2H4N2O4
reactant | potassium hydroxide | 0.22 mol, 1.2 g | [OH-].[K+]
reactant | Octane-3-yl acrylate | 0.05 mol, 8.3 mL | C(C=C)(=O)OC(CC)CCCCC | C11H20O2
reactant | methanol | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | octane-3-yl 4,4-dinitropentanoate | 4.9 g, yield: 80% | [N+](=O)([O-])C(CCC(=O)OC(CC)CCCCC)(C)[N+](=O)[O-] | C13H24N2O6
